US06365584B1
c) N-{3-amino-4-(3,5-bis-trifluoromethyl-benzylamino)-phenyl}-benzenesulphonamide
N-{3-nitro-4-(3,5-bis-trifluoromethyl-benzylamino)-phenyl}-benzenesulphonamide (8.6 g, 16.6 mmol) in 200 mL methanol are refluxed and within 0.5 h combined with a solution of Na2S2O4 (14.2 g, mmol) in 50 mL water. The mixture is refluxed until totally decolorised (this takes about 1 h). After cooling the mixture is diluted with water. About 100 mL of the methanol/water mixture are distilled off, the resulting solution is cooled, the crystals precipitated are filtered off and washed with water. The crystals are dissolved in ethyl acetate, dried and evaporated down until not quite dry. After cooling the crystals precipitated are filtered off and washed with diethylether.

reactant | N-{3-nitro-4-(3,5-bis-trifluoromethyl-benzylamino)-phenyl}-benzenesulphonamide | 16.6 mmol, 8.6 g | [N+](=O)([O-])C=1C=C(C=CC1NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)NS(=O)(=O)C1=CC=CC=C1 | C21H15F6N3O4S
reactant | Na2S2O4 | 14.2 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | methanol | 200 mL | CO | CH4O
solvent | water | 50 mL | O | H2O
product | N-{3-amino-4-(3,5-bis-trifluoromethyl-benzylamino)-phenyl}-benzenesulphonamide | NC=1C=C(C=CC1NCC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)NS(=O)(=O)C1=CC=CC=C1 | C21H17F6N3O2S
